* source LAB 5
R_R1         N00322 N00180  2.2k  
R_R2         0 N00322  1.1k  
R_R3         N00218 0  4.7k  
R_R4         N00245 0  4.7k  
C_C1         N00180 N00218  0.1u  
C_C2         N00218 N00245  0.1u  
V_V1         N00180 0  
+SIN 0 2 338.627 0 0 0
