* source MAIN
R_R2         0 N00302  8k  
R_R1         N00302 N00252  33k  
R_R3         N00425 N00252  1.8k  
C_C3         N00425 M_UN0001  10u  
Q_Q1         N00425 N00302 N00363 Q2N2222
V_V2         N03540 0  
+SIN 0 10m 10k 0 0 0
R_R4         0 N00363  1k  
C_C2         N00363 0  100u  
C_C1         N03540 N00302  10u  
V_V1         N00252 0 25
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
