* source LAB1
V_V1         N00223 0 5V
R_R1         N00223 N00253  1k  
R_R2         N00253 N00344  3MEG  
R_R3         0 N00344  100k  
C_C1         0 N00253  1uF  
I_I1         0 N00253 DC 1mA  
