* source LAB1
V_V1         N00188 0 5V
R_R1         N00188 N00218  1k  
R_R2         0 N00218  100k  
I_I1         0 N00218 DC 1mA  
C_C1         0 N00218  1uF  
