* source LAB1
R_R1         N00364 N00402  10k  
R_R2         0 N00402  10k  
I_I1         0 N00402 DC 1mA  
C_C1         0 N00402  5uF  
V_V1         N00364 0  
+SIN 0 10 10Hz 0 0 0
