* source LAB10
Q_Q1         N00468 N00378 N00525 Q2N3904
V_V1         N00207 0  
+SIN 0 20m 1k 0 0 0
R_R4         0 N00525  1k  
C_C1         N00207 N00378  15u  
R_R1         N00378 N00468  33k  
R_R2         0 N00378  10k  
R_R3         0 N00723  1k  
C_C2         N00525 N00723  100u  
V_V2         N00468 0 10V
