* source LAB4
D_D5         N01801 N01835 D1N4002 
D_D6         N01835 N01862 D1N4002 
D_D7         N01801 N01896 D1N4002 
V_V1         N00956 0  
+SIN 0 10 60 0 0 0
D_D8         N01896 N01862 D1N4002 
R_R5         N01801 N01862  1k  
R_R2         N00956 N02405  1k  
R_R3         0 N01896  1k  
X_TX1    N02405 0 N02435 N01896 SCHEMATIC1_TX1 
R_R4         N02435 N01835  1k  

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 10uH
L2_TX1         3 4 10uH
.ends SCHEMATIC1_TX1
