* source LAB6
Q_Q1         N00286 N00257 0 Q2N3904
R_R2         N00227 N00257  2.2  
R_R1         N00286 N00315  220  
V_V1         N00227 0 0V
R_R3         N02732 N02762  10k  
V_V2         N00315 0 0V
R_R4         N02732 N02625  10k  
R_R5         N02762 N02625  10k  
R_R6         0 N02762  10k  
V_V3         N02625 0 5
