* source LAB7
C_C1         N00163 N00217  1u  
C_C3         0 N03609  1u  
D_D1         N00217 0 D1N4002 
C_C4         N00217 N03579  1u  
D_D4         N03609 N00217 D1N4002 
D_D5         N03579 N03609 D1N4002 
V_V2         N00163 0  
+SIN 0 3V 1k 0 0 0
