* source LAB8
R_R2         0 N00302  10k  
R_R1         N00302 N00252  33k  
R_R3         N00425 N00252  3k  
C_C3         N00425 N06657  0.1uF  
Q_Q1         N00425 N00302 N00363 Q2N2222
V_V2         N03540 0  
+SIN 0 50m 1k 0 0 0
R_R4         0 N00363  1k  
C_C2         N00363 0  1uF  
R_R6         0 N06657  1k  
C_C1         N03540 N00302  0.22uF  
V_V1         N00252 0 10V
