* source LAB9
R_R5         N08503 0  1k  
R_R2         0 N00302  8k  
R_R1         N00302 N00252  33k  
R_R3         N00425 N00252  1.8k  
Q_Q1         N00425 N00302 N00363 Q2N2222
R_R4         0 N00363  1k  
V_V3         N08223 0  
+SIN 10m 0 1k 0 0 0
C_C2         0 N00302  100u  
C_C5         N00425 N08503  15u  
V_V1         N00252 0 20V
C_C4         N00363 N08223  15u  
