* source LAB9-V2
R_R1         N00302 N00252  33k  
R_R2         0 N00302  8k  
R_R3         N00425 N00252  1.8k  
C_C6         N00425 N09143  15u  
Q_Q1         N00425 N00302 N00363 Q2N2222
R_R4         0 N00363  1k  
C_C2         0 N00302  100u  
V_V2         N08223 0  
+SIN 0 10m 1k 0 0 0
R_R5         N09143 0  1k  
V_V1         N00252 0 20V
C_C4         N00363 N08223  15u  
