* source MAIN
V_V1         N00080 0 5V
R_R1         N00080 N00110  1k  
D_D1         N00110 0 D1N4002 
R_R2         N00572 N00522  10k  
R_R4         N00572 N00873  5k  
V_V5         N00522 0 5V
R_R5         0 N00572  10k  
R_R7         N00873 N00522  5k  
R_R6         0 N00873  10k  
