* source MAIN
V_V1         N00225 0 2
R_R1         N00137 N00175  1k  
R_R2         0 N00175  1k  
D_D1         N00175 N00225 D1N4002 
V_V3         N00137 0 0Vdc
