* source SAMPLE
R_R6         N01099 N01159  9  
I_I3         0 N01500 DC 3  
R_R7         N01159 N01217  1  
R_R8         N01500 N01159  10  
R_R9         0 N01217  7  
V_V2         N01069 0 10
R_R4         N01500 N01069  4  
R_R5         N01099 N01069  5  
