* source A123
V_V2         N02047 0 10.5
R_R3         N00130 N00191  1.2k  
R_R5         N02047 N02063  675.44  
R_R4         0 N00130  470  
R_R6         0 N02063  1.8k  
R_R1         N00652 N00191  470  
R_R7         N00130 N00652  1.8k  
R_R2         0 N00652  1.2k  
V_V5         N00191 0 24
