* source APL3
R_R4         N02389 N02515  2.5  
I_I1         0 N02447 DC 14  
V_V1         0 N02389 12
E_E1         N02477 N02515 N02515 N02389 0.2
G_G1         0 N02477 N02447 N02389 0.5
R_R1         N02389 N02447  0.5  
R_R2         N02477 N02447  2  
R_R3         0 N02515  1  
