* source ASD
V_V1         N00277 0 10
I_I1         0 N00367 DC 4  
R_R1         N00277 N00307  5  
R_R2         0 N00307  5  
R_R3         0 N00337  5  
R_R4         N00367 N00337  10  
R_R5         N00367 0  5  
