* source ASDASD
R_R1         0 N00135  40  
R_R2         N00983 N00295  10  
R_R3         N00295 N00353  20  
V_V1         0 N00353 30
I_I1         0 N00135 DC 6  
X_F1    N00135 N00983 0 N00295 SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 4
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
