* source ASDASDASDCXV
R_R4         N00937 N00774  1k  
R_R5         0 N00937  1k  
R_R6         N02977 N00774  1k  
V_V2         N00744 0 15
V_V4         N03569 0 7.14
R_R14         N03569 N03599  2.047k  
R_R15         0 N03599  4.7k  
R_R3         N00744 N00774  2.2k  
R_R13         0 N02977  4.7k  
