* source ASDASDCV
V_V1         N00181 0 1
R_R1         N00181 N00211  300  
G_G1         0 N00269 N00211 N00269 0.003
R_R2         N00211 0  70k  
R_R3         N00211 N00269  10k  
R_R4         0 N00269  567567  
R_R5         0 N00269  8  
