* source ASDDFG
R_R10         N03470 0  6  
E_E4         N03470 N04060 N04060 0 2
V_V2         0 N05312 1
R_R7         N04060 N03470  2  
R_R9         N03470 N05312  12  
R_R8         0 N04060  4  
