* source ASDS
R_R1         0 N00137  1k  
V_V1         N00137 0 10
R_R2         0 N00137  1k  
V_V2         N00323 0 5
R_R3         N00137 N00199  4.7k  
R_R4         0 N00199  1k  
R_R5         N00199 N00323  4.7k  
