* source BNM
V_V1         N00215 0 24
V_V2         N00363 0 38
I_I1         N00334 N00245 DC 4Adc  
R_R1         N00215 N00245  6  
R_R2         0 N00245  3  
R_R3         N00245 N00334  5  
R_R4         0 N00334  12  
R_R5         N00334 N00363  4  
