* source EXAM
R_R2         N00348 N00182  2k  
R_R3         0 N00348  6k  
R_R4         0 N00259  2k  
R_R5         N00259 N00182  6k  
V_V5         N00182 0 12
