* source LAB6B
R_R1         N00274 N00382  1k  
R_R2         0 N00382  5k  
R_R3         N00382 N00447  10k  
R_R4         0 N00447  1k  
R_R5         N00274 N00324  1k  
R_R6         N00324 N00447  5k  
V_V1         N00274 0 20V
V_V2         N00324 N00382 15V
