* source OP
I_I1         0 N00203 DC 5  
R_R6         N00233 N02004  1k  
R_R1         0 N00203  4  
R_R2         N00233 N00203  2  
V_V1         0 N02004 1
R_R3         N00233 0  6  
E_E1         N00233 N00203 N00440 0 2
