* source QUIZ
C_C1         0 N00239  5uC  
V_V1         N00209 0 30
R_R1         N00209 N00239  5  
R_R2         N00239 N00297  10  
L_L1         N00297 0  8mH  
