* source SD
R_R1         N00505 N00420  2  
R_R2         N00301 N00318  7  
I_I3         N00318 0 DC 1  
V_V4         N00420 0 3
X_H3    N00505 0 N00420 N00301 SCHEMATIC1_H3 

.subckt SCHEMATIC1_H3 1 2 3 4  
H_H3         3 4 VH_H3 3
VH_H3         1 2 0V
.ends SCHEMATIC1_H3
