* source WER
R_R1         0 N00135  40  
R_R2         N00135 N00197  10  
R_R3         N00197 N00266  20  
V_V1         N00266 0 30
I_I1         0 N00135 DC 6A  
X_F1    N00135 N00197 0 N00197 SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
