* source YUI
R_R1         N00182 N00212  2.2k  
R_R2         N00270 N00212  1k  
R_R3         0 N00270  1k  
R_R4         0 N00212  1k  
V_V1         N00182 0 15
